US09102673B2
Ethyl 2-bromothiazole-4-carboxylate (100 mg, 0.424 mmole), 4-(trifluoromethoxy)phenylboronic acid (113 mg, 0.551 mmole), CsF (129 mg, 0.847 mmole), and bis(tri-t-butylphosphine)palladium(0) (22 mg, 0.043 mmole) were combined in a screw cap vial. To this was added 1,4-dioxane (2 mL). N2 was bubbled through the mixture for 10 seconds. The vial was capped then heated to 100° C. After 6 hr the mixture was cooled to RT, diluted with EtOAc, filtered through a pad of Celite washing with EtOAc, and concentrated. Flash column chromatography (Biotage-SNAP-25 g SiO2, 0-15% EtOAc/hexanes) gave ethyl 2-[4-(trifluoromethoxy)phenyl]-1,3-thiazole-4-carboxylate (71 mg, 53%) as a pale orange solid. 1H NMR (399 MHz, CDCl3): δ 8.18 (s, 1 H); 8.07-8.03 (m, 2 H); 7.30 (d, J=8.4 Hz, 2 H); 4.46 (q, J=7.1 Hz, 2 H); 1.44 (t, J=7.1 Hz, 3 H).

reactant | Ethyl 2-bromothiazole-4-carboxylate | 0.424 mmole, 100 mg | BrC=1SC=C(N1)C(=O)OCC | C6H6BrNO2S
reactant | 4-(trifluoromethoxy)phenylboronic acid | 0.551 mmole, 113 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | CsF | 0.847 mmole, 129 mg | [F-].[Cs+]
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.043 mmole, 22 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | ethyl 2-[4-(trifluoromethoxy)phenyl]-1,3-thiazole-4-carboxylate | 71 mg, 53% | FC(OC1=CC=C(C=C1)C=1SC=C(N1)C(=O)OCC)(F)F | C13H10F3NO3S
